US04272540
17-Cyano-3,14-dimethoxymorphinan-6-one (5)
A solution of 3,14-dimethoxy-17-methylmorphinan-6-one (0.490 g, 1.55 mmol) in methylene chloride (25 ml) was treated with cyanogen bromide (0.977 g, 9.3 mmol) and anhydrous potassium carbonate (1.285 g, 9.3 mmol). The mixture was refluxed for 22 hours, filtered through Celite and the filtrate washed with water (3×50 ml). The organic solution was separated, dried over MgSO4, filtered and concentrated under reduced pressure to give 0.463 g (92% theory) of the desired product as a yellow solid (m.p. 172°-176°). Recrystallization from ethanol gave 0.427 g (85% theory) of the product as a white solid, m.p. 176°-177° C.

reactant | 3,14-dimethoxy-17-methylmorphinan-6-one | 1.55 mmol, 0.490 g | COC=1C=CC=2C[C@@H]3[C@@]4(CCC(C[C@@]4(C2C1)CCN3C)=O)OC | C19H25NO3
reactant | cyanogen bromide | 9.3 mmol, 0.977 g | N#CBr | CBrN
reactant | potassium carbonate | 9.3 mmol, 1.285 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 17-Cyano-3,14-dimethoxymorphinan-6-one | C(#N)N1[C@H]2[C@@]3(CCC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)OC | C19H22N2O3
